US06800778B1
(1) Production of ethyl 1-(1-hydroxy(2-chlorophenyl)methyl)cyclopentanecarboxylate
tBuBisP*RuBr2 (28 mg) was placed in a reactor and deaerated and substituted with argon. A mixture of deaerated methanol/water (10/1) (33 ml) and ethyl 1-(2-chlorobenzoyl)cyclopentanecarboxylate (3.2 g, 11.4 mmol) was added. Under a hydrogen pressure (6 atm), the mixture was stirred at 70° C. for 7 h and concentrated to dryness. This was dissolved in ethyl acetate, dried over anhydrous sodium sulfate and purified by silica gel column chromatography to give the title compound (2.59 g, yield; 80.9%) as a colorless oil. The enantiomer excess of this product was measured by high performance liquid chromatography (Condition F) and found to be 90% ee.

reactant | ethyl 1-(2-chlorobenzoyl)cyclopentanecarboxylate | 11.4 mmol, 3.2 g | ClC1=C(C(=O)C2(CCCC2)C(=O)OCC)C=CC=C1 | C15H17ClO3
solvent | methanol water | 33 ml | CO.O
product | ethyl 1-(1-hydroxy(2-chlorophenyl)methyl)cyclopentanecarboxylate | 2.59 g, yield; 80.9% | OC(C1(CCCC1)C(=O)OCC)C1=C(C=CC=C1)Cl | C15H19ClO3
